US07253286B2
Methyl 2-(benzyloxy)-4-(((2,2-dimethyl-4,6-dioxo-1,3-dioxan-5-ylidene)methyl)amino)benzoate
After suspending methyl 4-(((2,2-dimethyl-4,6-dioxo-1,3-dioxan-5-ylidene)methyl)amino)-2-hydroxybenzoate (13.975 g, 43.5 mmol) in dimethylformamide (140 ml) at room temperature under a nitrogen atmosphere, sodium hydride (1.87 g, 46.8 mmol) was gradually added. After 1.5 hours, benzyl bromide 5.7 ml, 47.9 mmol) was added dropwise and the mixture was stirred for 2 days. The reaction solution was diluted with water (700 ml) and stirred overnight, and the precipitated crystals were filtered, washed with diethyl ether and dried at 70° C. to obtain the title compound (15.477 g, 37.6 mmol, 86.5%) as white crystals.

reactant | methyl 4-(((2,2-dimethyl-4,6-dioxo-1,3-dioxan-5-ylidene)methyl)amino)-2-hydroxybenzoate | 43.5 mmol, 13.975 g | CC1(OC(C(C(O1)=O)=CNC1=CC(=C(C(=O)OC)C=C1)O)=O)C | C15H15NO7
reactant | sodium hydride | 46.8 mmol, 1.87 g | [H-].[Na+]
reactant | benzyl bromide | 47.9 mmol, 5.7 ml | C(C1=CC=CC=C1)Br | C7H7Br
solvent | dimethylformamide | 140 ml | CN(C=O)C | C3H7NO
solvent | water | 700 ml | O | H2O
product | Methyl 2-(benzyloxy)-4-(((2,2-dimethyl-4,6-dioxo-1,3-dioxan-5-ylidene)methyl)amino)benzoate | 37.6 mmol, 15.477 g, 86.5% | C(C1=CC=CC=C1)OC1=C(C(=O)OC)C=CC(=C1)NC=C1C(OC(OC1=O)(C)C)=O | C22H21NO7
